US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-1-benzothiophene-2-carboxamide hydrochloride
356.7 mg (1.68 mmol) of 3-chloro-1-benzothiophene-2-carboxylic acid, 334 mg (1.68 mmol) of R-3-aminoquinuclidine dihydrochloride, 765.3 mg (2.01 mmol) of HATU, 780.5 mg (6.04 mmol) of N,N-diisopropylethylamine and 2.0 ml of DMF are reacted according to the general procedure (variant B). The reaction mixture is purified by preparative HPLC. The product is dissolved in 4M HCl in dioxane and then reconcentrated. 265 mg (44.2% of theory) of the title compound are obtained. The analytical data correspond to those of the racemate (example 14).

reactant | 3-chloro-1-benzothiophene-2-carboxylic acid | 1.68 mmol, 356.7 mg | ClC1=C(SC2=C1C=CC=C2)C(=O)O | C9H5ClO2S
reactant | HATU | 2.01 mmol, 765.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 6.04 mmol, 780.5 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2Cl)C=CC=C1 | InChI=1S/C16H17ClN2OS.ClH/c17-14-11-3-1-2-4-13(11)21-15(14)16(20)18-12-9-19-7-5-10(12)6-8-19;/h1-4,10,12H,5-9H2,(H,18,20);1H/t12-;/m0./s1
